US04777267
Synthesis of 4-(4-chlorophenyl)thiomethyl-5-methyl-1,3-dioxol-2-one
In 40 ml of dichloromethane was dissolved 2.0 g of 4-chloromethyl-5-methyl-1,3-dioxol-2-one, and 2.0 g of 4-chlorobenzenethiol was added. Then, 1.4 g of triethylamine was added, and the mixture was stirred at room temperature for 30 minutes. After the reaction, the solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate. The insoluble materials were separated by filtration, and the solvent was evaporated under reduced pressure. The residue was subjected to medium-pressure silica gel column chromatography as in Example 1. The eluate was evaporated under reduced pressure, and the residue was recrystallized from a mixed solvent of ethyl acetate and n-hexane to give 2.9 g of the captioned compound as colorless crystals.

reactant | 4-chloromethyl-5-methyl-1,3-dioxol-2-one | 2.0 g | ClCC=1OC(OC1C)=O | C5H5ClO3
reactant | 4-chlorobenzenethiol | 2.0 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-(4-chlorophenyl)thiomethyl-5-methyl-1,3-dioxol-2-one | 2.9 g | ClC1=CC=C(C=C1)SCC=1OC(OC1C)=O | C11H9ClO3S
